US06630577B2
Added N-hydroxysuccinimide (0.69 g, 6 mmol) followed by 1,3-dicyclohexylcarbodiimide (1.24 g, 6 mmol) to a stirred solution of 3,4-dibromobenzoic acid (1.4 g, 5 mmol) in anhydrous dioxane (40 mL). Stirred suspension for 6 hours at room temperature. Filtered precipitate from solution and washed with dioxane (3×5 mL). Combined filtrate and washes and concentrated in vacuo to afford a white solid. Dissolved solid in methanol (50 mL) and added 6-aminohexanoic acid (1.31 g, 10 mmol) and N,N-diisopropylethylamine (1.74 mL, 10 mmol). Stirred for 24 hours at room temperature. Concentrated solution on a rotary evaporator and dissolved residue in 0.1 N NaOH (150 mL). Filtered precipitate from solution and washed with water (2×10 mL). Combined filtrate and washes and acidified with conc. HCl (1.5 mL). Extracted filtrate with ether (2×50 mL), washed extract with brine (2×30 mL) and dried over anhydrous MgSO4. Removed solvent in vacuo to afford a white solid. Obtained 1.78 g (91% yield) of N-(3,4-di-bromobenzoyl)-6-aminohexanoic acid. 1H NMR (300 MHz, DMSO-d6): δ11.99 (s, 1H), 8.61 (triplet, J=6 Hz, 1H), 8.16 (doublet, J=1.8 Hz, 1H), 7.84(doublet, J=8.1 Hz, 1H), 7.73(doublet of doublets, J=1.8, 8.1 Hz, 1H), 3.2 (doublet of triplets, J=6,6, 6.0 Hz, 2H), 2.18 (triplet, J=7.3 Hz, 2H), 1.49 (multiplet, 4H), 1.28 (multiplet, 2H). 13C NMR (300 MHz, DMSO-d6): δ174.71, 164.03, 135.64, 133.98, 132.31, 128.22, 127.20, 124.14, 33.60, 28.65, 26.00, 24.22.

reactant | N-hydroxysuccinimide | 6 mmol, 0.69 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 6 mmol, 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3,4-dibromobenzoic acid | 5 mmol, 1.4 g | BrC=1C=C(C(=O)O)C=CC1Br | C7H4Br2O2
reactant | 6-aminohexanoic acid | 10 mmol, 1.31 g | NCCCCCC(=O)O | C6H13NO2
reactant | N,N-diisopropylethylamine | 10 mmol, 1.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | N-(3,4-di-bromobenzoyl)-6-aminohexanoic acid | 1.78 g, 91% yield | BrC=1C=C(C(=O)NCCCCCC(=O)O)C=CC1Br | C13H15Br2NO3
